US07452892B2
F. Preparation of 7-(4-chlorophenyl)-8-phenyl-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one
To a stirred solution of 7-(4-chlorophenyl)-8-phenyl-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one and/or trichloromethyl 2-(6-(4-chlorophenyl)-5-phenylpyrimidin-4-yl)hydrazinecarboxylate (32.2 mg, 0.10 mmol) in DMF (2 mL) at room temperature under argon was added 5-(chloromethyl)-2-(trifluoromethyl)pyridine (29.4 mg, 0.15 mmol), followed by K2CO3 (27.6 mg, 0.20 mmol). The resulting mixture was heated at 60° C. for 1 h. The crude product was purified by silica gel column chromatography eluted with ethyl acetate-hexanes, then lyophilized from 1,4-dioxane, to obtain the title compound (18.3 mg) as an off-white lyophilate. HPLC/MS: retention time=3.90 min, [M+H]30 =482. 1H NMR (CDCl3): δ 8.80 (d, J=1.5 Hz, 1H), 8.70 (s, 1H), 7.94 (dd, J=7.9, 1.5 Hz, 1H), 7.69 (d, J=7.9 Hz, 2H), 7.28-7.47 (m, 7H), 7.20 (d, J=7.2 Hz, 2H), 5.22 (s, 2H). N-alkylation, rather than O-alkylation, was demonstrated by the presence of a 13C NMR resonance at 46.8 ppm.

reactant | 7-(4-chlorophenyl)-8-phenyl-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | ClC1=CC=C(C=C1)C1=C(C=2N(C=N1)C(NN2)=O)C2=CC=CC=C2 | C17H11ClN4O
reactant | trichloromethyl 2-(6-(4-chlorophenyl)-5-phenylpyrimidin-4-yl)hydrazinecarboxylate | 0.10 mmol, 32.2 mg | ClC1=CC=C(C=C1)C1=C(C(=NC=N1)NNC(=O)OC(Cl)(Cl)Cl)C1=CC=CC=C1 | C18H12Cl4N4O2
reactant | 5-(chloromethyl)-2-(trifluoromethyl)pyridine | 0.15 mmol, 29.4 mg | ClCC=1C=CC(=NC1)C(F)(F)F | C7H5ClF3N
reactant | K2CO3 | 0.20 mmol, 27.6 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 7-(4-chlorophenyl)-8-phenyl-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | 18.3 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C=N1)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O)C2=CC=CC=C2 | C24H15ClF3N5O
